US04225533
3-(4-chlorophenoxy)-2,2-dimethylcyclopropanecarboxylic acid (0.82 g, 3.40 mmol) is stirred together with 0.34 g (3.40 mmol) potassium bicarbonate in 10 ml THF/DMF (1:1) for 15 minutes. Then 1.0 g (3.40 mmol) α-cyano-4-fluoro-3-phenoxybenzyl methanesulfonate in 5 ml THF/DMF (1:1) is added and the mixture stirred for approximately 48 hours. The reaction is diluted with ether, washed with water (3×) and sat. NaCl, dried and solvent is removed. The crude product is purified by prep. TLC developing with 10% ethyl acetate/hexane to yield α-cyano-4-fluoro-3-phenoxybenzyl 3-(4-chlorophenoxy)-2,2-dimethylcyclopropanecarboxylate.

reactant | 3-(4-chlorophenoxy)-2,2-dimethylcyclopropanecarboxylic acid | 3.40 mmol, 0.82 g | ClC1=CC=C(OC2C(C2C(=O)O)(C)C)C=C1 | C12H13ClO3
reactant | potassium bicarbonate | 3.40 mmol, 0.34 g | C([O-])(O)=O.[K+]
reactant | α-cyano-4-fluoro-3-phenoxybenzyl methanesulfonate | 3.40 mmol, 1.0 g | CS(=O)(=O)OC(C1=CC(=C(C=C1)F)OC1=CC=CC=C1)C#N | C15H12FNO4S
solvent | THF DMF | 10 ml | C1CCOC1.CN(C)C=O
solvent | THF DMF | 5 ml | C1CCOC1.CN(C)C=O
solvent | ether | CCOCC | C4H10O
product | α-cyano-4-fluoro-3-phenoxybenzyl 3-(4-chlorophenoxy)-2,2-dimethylcyclopropanecarboxylate | ClC1=CC=C(OC2C(C2C(=O)OC(C2=CC(=C(C=C2)F)OC2=CC=CC=C2)C#N)(C)C)C=C1 | C26H21ClFNO4
